US08461372B2
A solution of Benzyloxy carbonyl methoxy-acetic acid (40 g) and Thionyl chloride (80 ml) was stirred at reflux temperature for 3 hours. Excess Thionyl chloride was distilled off, to the residue was added toluene (100 ml) and distilled off the solvent completely to get chloro carbonyl methoxy-acetic acid benzyl ester (40 g) as a light brown liquid which was used without further purification.

reactant | Benzyloxy carbonyl methoxy-acetic acid | 40 g | C(C1=CC=CC=C1)OC(=O)C(C(=O)O)OC | C11H12O5
reactant | Thionyl chloride | 80 ml | S(=O)(Cl)Cl | Cl2OS
product | chloro carbonyl methoxy-acetic acid benzyl ester | 40 g | C(C1=CC=CC=C1)OC(C(OC)C(=O)Cl)=O | C11H11ClO4
